US07241791B2
Step 2: 4-(1-allyl-7-chloro-1H-indazole-3-yl)benzene-1,3-diol
Prepared according to Method D step C from 1-allyl-7-chloro-3-(2,4-dimethoxyphenyl)-1H-indazole (0.101 g, 0.30 mmol), boron tribromide (0.226 mL, 2.4 mmol) and 1.0 mL of cyclohexene to give the product (0.048 g) as a white solid.

reactant | 1-allyl-7-chloro-3-(2,4-dimethoxyphenyl)-1H-indazole | 0.30 mmol, 0.101 g | C(C=C)N1N=C(C2=CC=CC(=C12)Cl)C1=C(C=C(C=C1)OC)OC | C18H17ClN2O2
reactant | boron tribromide | 2.4 mmol, 0.226 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 1.0 mL | C1=CCCCC1 | C6H10
product | 4-(1-allyl-7-chloro-1H-indazole-3-yl)benzene-1,3-diol | 0.048 g | C(C=C)N1N=C(C2=CC=CC(=C12)Cl)C1=C(C=C(C=C1)O)O | C16H13ClN2O2
